US06117873
e) 5-Bromomethyl-2,3-dimethoxy-7-fluoroquinoxaline
8.4 g (37.8 mmol) of 2,3-dimethoxy-7-fluoro-5-methylquinoxaline, 7.4 g (41.6 mmol) of N-bromosuccinimide and 0.63 g (0.38 mmol) of azoisobutyronitrile are introduced into 140 ml of carbon tetrachloride and stirred at reflux for 6 hours. The reaction mixture is cooled and concentrated, and the residue is taken up in diethyl ether. The suspension is filtered off and the mother liquor is concentrated again. The remaining crude product is recrystallized from hexane. The title compound is obtained as white crystals of m.p. 122-125° C.

reactant | 2,3-dimethoxy-7-fluoro-5-methylquinoxaline | 37.8 mmol, 8.4 g | COC1=NC2=CC(=CC(=C2N=C1OC)C)F | C11H11FN2O2
reactant | N-bromosuccinimide | 41.6 mmol, 7.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 140 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-Bromomethyl-2,3-dimethoxy-7-fluoroquinoxaline | BrCC1=C2N=C(C(=NC2=CC(=C1)F)OC)OC | C11H10BrFN2O2
